US07410966B2
6-Chloro-2-(5-nitro-2-thienyl)-3H-imidazo[4,5-b]pyridine
5-Chloropyridine-2,3-diamine (4.0 g, 28 mmol) was dissolved in NMP (3 ml) and heated to 170° C. 5-Nitrothiophene-2-carbaldehyde (4.4 g, 28 mmol) dissolved in nitrobenzene (3 ml) and NMP (2 ml) was added slowly over 30 min. After 3 h, the reaction mixture was diluted with EtOAc and purified by dry flash chromatography (0%, 10%, 50%, 70% EtOAc in toluene), giving the title product (2 g, 25%).

reactant | 5-Chloropyridine-2,3-diamine | 28 mmol, 4.0 g | ClC=1C=C(C(=NC1)N)N | C5H6ClN3
reactant | 5-Nitrothiophene-2-carbaldehyde | 28 mmol, 4.4 g | [N+](=O)([O-])C1=CC=C(S1)C=O | C5H3NO3S
solvent | NMP | 3 ml | CN1CCCC1=O | C5H9NO
solvent | nitrobenzene | 3 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 2 ml | CN1CCCC1=O | C5H9NO
product | 6-Chloro-2-(5-nitro-2-thienyl)-3H-imidazo[4,5-b]pyridine | 2 g, 25% | ClC=1C=C2C(=NC1)NC(=N2)C=2SC(=CC2)[N+](=O)[O-] | C10H5ClN4O2S
